US04902698
(a) Methyl 4-(5-chlorosulphonylpyrid-2-yl)butanoate
Sodium nitrite (6.08 g) in water (12 ml) was added over 20 minutes to a solution of methyl 4-(5-aminopyrid-2-yl)butanoate (7.48 g, 0.04 mole) in glacial acetic acid (20 ml) and concentrated hydrochloric acid (32 ml) stirred at -10° C. The solution was stirred for 15 minutes then added over 15 minutes to a solution of cuprous chloride (2 g) in glacial acetic acid saturated with sulphur dioxide at 10° C. The resulting solution was stirred at room temperature for 1 hour then poured into ice water (250 ml) and extracted with chloroform (3×200 ml). The chloroform extracts were dried over magnesium sulphate and the solvent was removed to give the title compound as a pale green oil which was used without further purification.

reactant | Sodium nitrite | 6.08 g | N(=O)[O-].[Na+]
reactant | methyl 4-(5-aminopyrid-2-yl)butanoate | 0.04 mole, 7.48 g | NC=1C=CC(=NC1)CCCC(=O)OC | C10H14N2O2
reactant | sulphur dioxide | S(=O)=O | O2S
reactant | hydrochloric acid | 32 ml | Cl | ClH
solvent | water | 12 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | Methyl 4-(5-chlorosulphonylpyrid-2-yl)butanoate | ClS(=O)(=O)C=1C=CC(=NC1)CCCC(=O)OC | C10H12ClNO4S
